US08076488B2
N-Methyl-4-[3-(methylsulfonyl)-4-({[(2.2,4,4-tetrafluoro-4H-1,3-benzodioxin-6-yl)amino]-carbonyl}amino)phenoxy]pyridine-2-carboxamide
To N-methyl-4-[3-(methylthio)-4-({[(2,2,4,4-tetrafluoro-4H-1,3-benzodioxin-6-yl)-amino]carbonyl}amino)phenoxy]pyridine-2-carboxamide (150 mg, 0.28 mmol) in anhydrous 1:1 v/v DCM/THF (3.0 mL) at 0° C. was added mCPBA (162.7 mg, 0.61 mmol, 2.2 eq, and the reaction mixture was stirred at RT for 17 h. The reaction mixture was poured into aqueous saturated sodium thiosulfate solution and extracted with EtOAc (3×100 mL). The combined organic layers were washed with brine, dried over sodium sulfate, filtered, and evaporated under reduced pressure to give 73.3 mg (46.1%) of the title compound as a white solid. 1H-NMR (DMSO-d6) δ 10.31 (s, 1H), 8.81 (q, J=5.4 Hz, 1H), 8.71 (s, 1H), 8.55 (d, J=5.7 Hz, 1H), 8.23 (d, J=9.0 Hz, 1H), 8.15 (d, J=2.4 Hz, 1H), 7.70 to 7.59 (m, 3H), 7.47 (s, 1H), 7.45 (d, J=6.9 Hz, 1H), 7.21 (dd, J=5.4, 2.4 Hz, 1H), 3.37 (s, 3H), 2.79 (d, J=5.1 Hz, 3H); MS LC-MS (M+H)+=571.1, RT=3.81 min; m.p. 222-223.5° C.

reactant | N-methyl-4-[3-(methylthio)-4-({[(2,2,4,4-tetrafluoro-4H-1,3-benzodioxin-6-yl)-amino]carbonyl}amino)phenoxy]pyridine-2-carboxamide | 0.28 mmol, 150 mg | CNC(=O)C1=NC=CC(=C1)OC1=CC(=C(C=C1)NC(=O)NC1=CC2=C(OC(OC2(F)F)(F)F)C=C1)SC | C23H18F4N4O5S
reactant | mCPBA | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | DCM THF | 3.0 mL | C(Cl)Cl.C1CCOC1
product | N-Methyl-4-[3-(methylsulfonyl)-4-({[(2.2,4,4-tetrafluoro-4H-1,3-benzodioxin-6-yl)amino]-carbonyl}amino)phenoxy]pyridine-2-carboxamide | 73.3 mg, 46.1% | CNC(=O)C1=NC=CC(=C1)OC1=CC(=C(C=C1)NC(=O)NC1=CC2=C(OC(OC2(F)F)(F)F)C=C1)S(=O)(=O)C | C23H18F4N4O7S
